.SUBCKT LT1632_MD  1 2 3 4 5
*
* input protection
RIP1 1 111 2.2500e+002
RIP2 2 112 2.2500e+002
DIP1 111 114 DX
DIP2 114 112 DX
DIP3 112 115 DX
DIP4 115 111 DX
DIP5 111 3 DX
DIP6 112 3 DX
DIP7 4 111 DX
DIP8 4 112 DX
*
* input stage
CIN 111 112 5.0000e-012
GRIN 111 112 111 112 1.0000e-012
VCMEP 303 3 DC 0.8
VCMEN 4 304 DC 1.6
Q1 11 112 13 Q1
Q2 12 113 14 Q2
RC1 304 11 3.0729e+002
RC2 304 12 3.0729e+002
RE1 10 13 3.6368e+001
RE2 10 14 3.6368e+001
C1 11 12 8.6322e-012
IEE 303 10 DC 6.5108e-003
GSR 303 10 11 12 3.9172e-004
D1 10 303 DX
GA 60 99 11 12 3.2543e-003
*
* noise sources
FRI1 99 1 VRI1 1
VRI1 101 0 DC 0
RRI1 101 0 7.5563e+003
FRI2 99 2 VRI2 1
VRI2 201 0 DC 0
RRI2 201 0 7.5563e+003
GR 99 60 605 606 1.3022e+001
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
*
* common mode rejection
GCM1 99 20 POLY(2) 111 99 112 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 1.9894e-003
ECM 113 111 20 99 3.1623e-005
*
* frequency shaper
RP1 601 99 2.9032e+003
CP1 60 601 1.3705e-011
RP11 60 99 1.0000e+004
GP1 99 6 60 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 7.9630e-011
GB 7 99 6 99 2.8165e+003
R01 7 99 3.1400e+001
R02 7 50 1.0000e-001
R03 50 5 2.8500e+001
R04 5 99 5.9379e+009
VC 53 50 DC 1.1496e+000
VE 54 50 DC -1.1397e+000
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 2.5000e+002
ECLN 92 0 7 50 2.5000e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 3.5131e+002
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC -2.2108e-003
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.8 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL Q1 PNP (IS=1.0082e-015 BF=2798.6 XTB=7.7573e-001 XTI=3.03822e+000 KF=4.0070e-016)
.MODEL Q2 PNP (IS=9.9183e-016 BF=2885.8 XTB=7.6646e-001 XTI=2.96178e+000 KF=4.0070e-016)
.MODEL DR D (IS=8.2592e-016 KF=7.1158e-018 RS=0 XTI=0)
.ENDS LT1632_MD
