.SUBCKT LT1638_MD  1 2 3 4 5 
*
* input range / phase reversal protection
RIP1 1 111 1.0000e+003
RIP2 2 112 1.0000e+003
DIP1 4 111 DX
DIP2 4 112 DX
*
* bias current
IBP 303 0 DC -2.0E-08 
RBP 303 0 1E6 TC=-1.6154E-02 
IBN 304 0 DC -2.1E-08 
RBN 304 0 1E6 TC=-1.4615E-02  
GCV1 0 306 POLY(3) 3 0 1 0 2 0 -0.75E-4 1.0E-4 -0.5E-4 -0.5E-4 
RCV1 306 0 1.0E5 
DCV1 307 306 DX 
DCV2 308 307 DX 
VCV1 308 0 DC -0.35 
RCV2 307 0 1.0E5 
GCV2 0 309 POLY(3) 3 0 1 0 2 0 -0.1E-4 1.0E-4 -0.5E-4 -0.5E-4 
RCV3 309 0 1.0E5 
DCV3 310 309 DX 
DCV4 311 310 DX 
VCV2 311 0 DC -0.35 
RCV4 310 0 1.0E5 
GBP 1 99 POLY(3) 303 0 307 0 310 0 0.0 1.0E-6 60.0E-9 6.2E-6 
GBN 2 99 POLY(3) 304 0 307 0 310 0 0.0 1.0E-6 68.0E-9 8.2E-6 
*
* offset voltage
ROFF1 301 0 1.000e+00 TC=-2.0000e-06 
ROFF2 302 0 1.00018e+00 
IOFF1 0 301 DC 1 
IOFF2 0 302 DC 1 
EOFF  114 112 301 302 1 
ROFF3 114 112 1.0000e+09 
*
* common mode rejection
GCM1 0 20 POLY(2) 111 0 112 0 0 5.0000e-04 5.0000e-04 
RCM1 21 0 1.000000e+03 
RCM2 20 0 1.0000e+06 
LCM 20 21 4.3213e-002
ECM 113 111 20 0 1.2589e-005
RCM3 113 111 1E12 
*
* noise voltage
GR 99 60 605 606 1.4747e+000
IR1 0 605 DC 1
IR2 0 606 DC 1
DR1 605 0 DR
DR2 606 0 DR
*
* input stage 
CIN 111 112 4.3e-12 
RDIFF 111 112 2.5e+6
GIN 99 10 113 114 0.05024
RCC 10 99 1.9903e+003
*C1 10 99 7.98e-11
C1 10 99 7.66e-11
DSRP 10 11 DX 
VSRP 11 99 DC 6.8
DSRN 12 10 DX 
VSRN 12 99 DC -5.1
GA 60 99 10 99 1.538e-5 
*
* frequency shaper
RP1 601 99 6.6667e+003
CP1 60 601 4.7746e-011
RP11 60 99 1.0000e+004
GP1 99 6 60 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 2.2368e-010
GB 7 99 6 99 1.1372e+004
R01 7 99 8.6900e+001
R02 7 50 1.0000e-001
R03 50 51 6.4533e+001
R04 51 500 2.3467e+001
*
* switch output to high impedance when
* VDD is switched off
SOUT 500 5 3 4  SHDN
*
R05 5 99 5.9379e+009
DOP 50 51 DOUT
DON 51 50 DOUT
VC 53 50 DC 1.0306e+000
VE 54 50 DC -1.0092e+000
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 4.0000e+002
ECLN 92 0 7 50 4.0000e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 2.1900e+001
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 1.7e-004
*
GV 31 0 7 50 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 9.7531
EGV 31 32 POLY(1) 3 4 -0.8 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=0)
.MODEL DR D (IS=8.2592e-016 KF=3.6798e-018 RS=0 XTI=0)
.MODEL DOUT D (IS=9.0917e-007 RS=0 XTI=0)
.MODEL SHDN VSWITCH (RON=0.1 ROFF=1.0E9 VON=2.4 VOFF=2.2)
.ENDS LT1638_MD
