.SUBCKT LTC1043    7   8   11  13  14  12  16  4   17 
.IC V(20)=0
RIN1 16 17 1.0E9
RIN2 16 20 50
DINP 20 4 DX
DINN 17 20 DX
COSC 20 17 24.0E-12
GBIAS 20 17  POLY(2) 4 17 73 17 0.0 -4.0E-6 -8.0E-6
GINV 17 73 72 20 1.0E-1
RINV1 73 17 1.0E4
CINV1 73 17 2.2E-10
DINV1 73 74 DX
VINV1 74 17 DC -0.86
DINV2 75 73 DX
EINV2 75 17 POLY(1) 17 4  0.8  1.0
GTV 17 72 4 17 1.16E-3 
RTV 72 17 1.0E3
RHYST 73 72 1.4E3
GSCS 17 76 73 17 2.5E-3
RSCS 76 17 1.0E3
DSCS 77 76 DX
VSDN2 77 17 DC -4.2
EST1 24 17 76 17 1.0
RST1 24 25 113
RST2 25 26 85
DST1 24 26 DX
CST1 25 17 1.2E-9
EST2 44 17 POLY(1) 17 76 -5.0000E+000 1.0000E+000
RST3 44 45 113
RST4 45 46 85
DST2 44 46 DX 
CST2 45 17 1.2E-9
XS1A 7 11  25 4 17  X1LTC1043
XS2A 8 11  45 4 17  X1LTC1043
XS3A 13 12  25 4 17  X1LTC1043
XS4A 14 12  45 4 17  X1LTC1043
RPC 4 17 25.0E3
.MODEL DX D IS=8.0000E-016 RS=0 XTI=0
** nested subcircuit: X1LTC1043
.SUBCKT X1LTC1043  1  2 25 14 15 ;NESTED SUBCIRCUIT--DO NOT CALL
GSW 1 31 POLY(2) 25 15 1 31 0 0 6.0000E-013 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56E-6
RTC 33 15 9.9541E+002 TC=-2.298E-003
GTC 15 33 31 2 1.0000E-003
GPK1 15 50 POLY(2) 1 15 14  15  0  1.0E-3  -0.60E-3 
RPK1 50 15 1.0E3
DPK1 50 51 DX
RPK2 51 15 1.0E4
GPK2 15 52  POLY(2) 1 15 51 15 0 1.0E-3 -1.4E-3
RPK3 52 15 1.0E3
GSV1 15 53 TABLE {V(14,15)}= (3.0, 6.8E-3) (5.0, 4.15E-3) (7.0, 2.9E-3) (9.0, 2.25E-3) (10.0, 1.95E-3) (12.0, 1.58E-3) (15.0, 1.23E-3) (18.0, 1.0E-3)
RSV1 53 15 1.0E3
GSV2 15 54 POLY(2) 53 15 52 15 0 0 0 0 1.0E-3
RSV2 54 15 1.0E3
GON 31 2 POLY(2) 33 15 54 15 0 9.972E-003 0 0 0 0 0 0 -3.437E-005
RON1 1 31 1.0E12
RON2 31 2 1.0E9
CDS 1 2 5.0000E-013
CDG 2 15 1.0000E-012
CSG 1 15 1.0000E-012
.MODEL DX D IS=8.0000E-016 RS=0 XTI=0
.ENDS X1LTC1043
** end nested subcircuit: X1LTC1043
.ENDS LTC1043
